US05955464
Using an analogous procedure to that described in Example 4, 4-chloro-6-(1-imidazolyl)quinazoline was reacted with 3,4-difluoroaniline to give 4-(3,4-difluoroanilino)-6-(1-imidazolyl)quinazoline in 35% yield, NMR Spectrum: (CD3SOCD3) 7.2 (s, 1H), 7.4-7.7 (m, 3H), 7.95 (d, 1H), 8.1 (m, 1H), 8.2 (m, 1H), 8.4 (s, 1H), 8.65 (s, 1H), 8.7 (d, 1H), 9.7 (broad s, 1H).

reactant | 4-chloro-6-(1-imidazolyl)quinazoline | ClC1=NC=NC2=CC=C(C=C12)N1C=NC=C1 | C11H7ClN4
reactant | 3,4-difluoroaniline | FC=1C=C(N)C=CC1F | C6H5F2N
product | 4-(3,4-difluoroanilino)-6-(1-imidazolyl)quinazoline | 35% yield | FC=1C=C(NC2=NC=NC3=CC=C(C=C23)N2C=NC=C2)C=CC1F | C17H11F2N5
